US04030925
11. 1-[4-(2-Formylhydrazino)phenyl]-3-methylthiourea (NA-11)
1-Formyl-2-(4-aminophenyl)hydrazine (1.51 g, 0.01 mole) and methyl isothiocyanate (0.73 g, 0.01 mole) were mixed in ethanol (20 ml) and the mixture was refluxed for 30 minutes. The mixture was chilled in ice, and water was added to precipitate the product. The product came out of solution in an oily form, but solidifed upon scratching and standing. The solid material was filtered off and washed thoroughly with ether. The product was dried to give a white crystalline powder. Yield 1.3 g (58%), m.p. 176°-178° C.

reactant | 1-Formyl-2-(4-aminophenyl)hydrazine | 0.01 mole, 1.51 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
reactant | methyl isothiocyanate | 0.01 mole, 0.73 g | CN=C=S | C2H3NS
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-[4-(2-Formylhydrazino)phenyl]-3-methylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)NC | C9H12N4OS
